US05935972
cis-2-Phenyl-3-[(5-pyridin-2-yl-benzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-piperidine-1-carboxylic acid tert-butyl ester (293 mg) as a yellow oil
From cis-3-[(5-bromobenzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-2-phenyl-piperidine-1-carboxylic acid tert-butyl ester (409 mg) and 2-tributylstannanyl-pyridine (339 mg).

reactant | cis-3-[(5-bromobenzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-2-phenyl-piperidine-1-carboxylic acid tert-butyl ester | 409 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(C(=O)OC(C)(C)C)CC1=CC(=CC=2C=COC21)Br)C2=CC=CC=C2 | C30H37BrN2O5
reactant | 2-tributylstannanyl-pyridine | 339 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
product | cis-2-Phenyl-3-[(5-pyridin-2-yl-benzofuran-7-ylmethyl)tert-butoxycarbonyl-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)N(C(=O)OC(C)(C)C)CC1=CC(=CC=2C=COC21)C2=NC=CC=C2)C2=CC=CC=C2 | C35H41N3O5
